US05476846
c) Ethyl 4-[[2-[[(4-chlorophenyl)sulfonyl]amino]cyclohexyl]methyl]benzeneacetate (cis+trans)
Obtained by operating as in example 1c from 6.1 g (22 mmoles) of ethyl 4-[(2-aminocyclohexyl)methyl]benzeneacetate, 2.7 g (26.5 mmoles) of triethylamine in 150 ml of dichloromethane and 4.6 g (22 mmoles) of 4-chlorobenzenesulfonyl chloride in 50 ml of ether. The colorless oil obtained (yield=quantitative) is used without any other purification.

reactant | ethyl 4-[(2-aminocyclohexyl)methyl]benzeneacetate | 22 mmoles, 6.1 g | NC1C(CCCC1)CC1=CC=C(C=C1)CC(=O)OCC | C17H25NO2
reactant | triethylamine | 26.5 mmoles, 2.7 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 22 mmoles, 4.6 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ethyl 4-[[2-[[(4-chlorophenyl)sulfonyl]amino]cyclohexyl]methyl]benzeneacetate | ClC1=CC=C(C=C1)S(=O)(=O)NC1C(CCCC1)CC1=CC=C(C=C1)CC(=O)OCC | C23H28ClNO4S
